US08314088B2
N,2-dimethyl-N-(1-methylethyl)-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepin-3-amine hydrochloride
A mixture of tert-butyl 2-methyl-3-[methyl(1-methylethyl)amino]-6,7-dihydropyrazino[2,3-f][1,4]oxazepine-8(9H)-carboxylate (109 mg) and 2N hydrogen chloride-ethyl acetate (4 mL) was stirred at room temperature for 4 hr. The reaction mixture was basified with 1N sodium hydroxide, and extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over sodium sulfate, and concentrated under reduced pressure. To the obtained residue were added methanol (5 mL) and 1 N hydrochloric acid (0.325 mL), and the mixture was concentrated under reduced pressure. The obtained residue was purified by recrystallization (ethanol-diisopropyl ether) to give the title compound (67 mg, 76%) as a colorless powder.

reactant | tert-butyl 2-methyl-3-[methyl(1-methylethyl)amino]-6,7-dihydropyrazino[2,3-f][1,4]oxazepine-8(9H)-carboxylate | 109 mg | CC=1C(=NC2=C(CN(CCO2)C(=O)OC(C)(C)C)N1)N(C(C)C)C | C17H28N4O3
reactant | hydrogen chloride-ethyl acetate | 2N, 4 mL | C(C)(=O)OCC.Cl
reactant | sodium hydroxide | 1N | [OH-].[Na+]
product | N,2-dimethyl-N-(1-methylethyl)-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepin-3-amine hydrochloride | 67 mg, 76% | Cl.CN(C1=NC2=C(CNCCO2)N=C1C)C(C)C | InChI=1S/C12H20N4O.ClH/c1-8(2)16(4)11-9(3)14-10-7-13-5-6-17-12(10)15-11;/h8,13H,5-7H2,1-4H3;1H
